US08686022B2
Ethyl 7-bromo-1H-indole-2-carboxylate
11.0 g 2-bromophenylhydrazine and 550 mg p-toluenesulphonic acid monohydrate are dissolved in 200 ml of toluene, combined with 6.74 ml ethyl pyruvate and refluxed for 2 hours using the water separator. The mixture is allowed to cool to 40° C. and combined with a solution that is obtained by dissolving 44.75 g p-toluenesulphonic acid monohydrate in 300 ml of toluene and refluxing for two hours using the water separator. Then the mixture is refluxed for 12 hours using the water separator. After cooling to ambient temperature the solvents are eliminated in vacuo, the residue is taken up in ethyl acetate and washed successively with water and saturated aqueous sodium hydrogen carbonate solution. After drying with magnesium sulphate the mixture is combined with activated charcoal, stirred for 15 minutes and filtered through kieselguhr. The process of adding activated charcoal, stirring and filtering is repeated twice more. The solvents are eliminated in vacuo and the residue is taken up in petroleum ether/dichloromethane 7:3. 30 g of silica gel are added, the mixture is stirred for 10 minutes and then suction filtered through kieselguhr. The suction filtered silica gel is washed with petroleum ether/dichloromethane 7:3. The solvents are eliminated in vacuo.

reactant | 2-bromophenylhydrazine | 11.0 g | BrC1=C(C=CC=C1)NN | C6H7BrN2
reactant | p-toluenesulphonic acid monohydrate | 550 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl pyruvate | 6.74 ml | C(C(=O)C)(=O)OCC | C5H8O3
reactant | water | O | H2O
reactant | p-toluenesulphonic acid monohydrate | 44.75 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 7-bromo-1H-indole-2-carboxylate | BrC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10BrNO2
